US04168385
Methyl α-(7-chloro-4-indanyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 1.19 g of sodium methoxide, 4.22 g of 7-chloro-4-indanol, and 100 mg of potassium iodide in 40 ml of methanol was added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture was heated at reflux overnight, cooled, and then poured into 100 ml of water. The mixture was extracted with 2×75 ml of ether. The combined extracts were washed with 2×50 ml of 5% NaOH, 2×50 ml water, 50 ml saturated brine, and dried (MgSO4). Evaporation of the solvent yielded a yellow oil which solidified on trituration with petroleum ether to yield 7.14 g of product as a cream colored solid, mp 94°-96° C. The solid was taken up in 75 ml of hot hexane, decanted away from a small amount of oil, and the supernatant liquid cooled to yield 5 g of a cream colored crystal, mp 97°-98.5° C.

reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | 7-chloro-4-indanol | 4.22 g | ClC1=CC=C(C=2CCCC12)O | C9H9ClO
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
reactant | water | 100 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | potassium iodide | 100 mg | [I-].[K+]
product | Methyl α-(7-chloro-4-indanyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.14 g | ClC=1C=CC(=C2CCCC12)OC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C24H20Cl2O4
